US04879295
A solution of 2-(5-methyl-2-thienyl)-5-methyl-4-thiazolecarboxylic acid (300 mg) and CDI (304.9 mg) in dry DMF (3 ml) was allowed to react at room temperature for 1 hour. Then a solution of 5-aminotetrazole (128 mg) in dry DMF (2 ml) was added dropwise and the mixture was heated at 70° C. for 3 hours. The solvent was removed from the reaction mixture, and the residue was treated with water and acidified with 2N-HCl under ice-cooling. The produced solids were filtered with suction, washed sufficiently with water and dried to give pale yellow solids of 2-(5-methyl-2-thienyl)-5-methyl-N-(1H-tetrazole-5-yl)-4-thiazolecarboxamide (372.9 mg, 97%), m.p. 278°-280° C. (from methanol-THF-water).

reactant | 2-(5-methyl-2-thienyl)-5-methyl-4-thiazolecarboxylic acid | 300 mg | CC1=CC=C(S1)C=1SC(=C(N1)C(=O)O)C | C10H9NO2S2
reactant | CDI | 304.9 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 5-aminotetrazole | 128 mg | NC1=NN=NN1 | CH3N5
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 2-(5-methyl-2-thienyl)-5-methyl-N-(1H-tetrazole-5-yl)-4-thiazolecarboxamide | 372.9 mg, 97% | CC1=CC=C(S1)C=1SC(=C(N1)C(=O)NC1=NN=NN1)C | C11H10N6OS2
